Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo man without significant past medical history admitted with 
syncope.  He walked around all day in the heat yesterday looking 
for a job.  He had nothing to drink.  He felt extremely weak, 
and laid down on a bench for 2 hours, and felt so weak that he 
could not get up.  He then vomited several times and had 
diarrhea.  He also felt cramping and stiffness in his hands.  He 
eventually walked to a store to buy some orange juice, but then 
fainted in the store.  He felt lightheaded before the episode.  
He had no preceding chest pain, palpitations, shortness of 
breath.  He had no associated bladder or bowel incontinence.  He 
had no involuntary shaking.  The storeperson called the 
ambulance.  
.
In the ED, on EKG, J point elevation V2-V3.  Discussed with 
cardiology, recommended admission for rule out.  He received 3L 
NS, ASA 325.  Vitals on transfer:  T 98  HR 102  BP 130/90  RR 
23 O2sat 97% RA.  Unclear if he had a fever in the ED - could 
have been 103.
.
He continues to feel somewhat weak and tired at present, without 
focal weakness or numbness.
.
ROS positive for occasional shortness of breath and nasal 
congestion.  Negative for cough, fevers, dysuria, abdominal 
pain, other joint pain, weight gain or loss.  Reviewed in 10 
other systems and negative.  He has no doctor and does not 
receive regular medical care.  He does not currently have 
insurance.
 
Past Medical History:
None
 
Social History:
___
Family History:
Multiple family members (mother, maternal grandmother) with 
diabetes.  No sudden cardiac death.
 
Physical Exam:
Exam
 VS  T current  100.1   BP   120/80     HR  92    RR  20  99% RA 
   O2sat
 
Gen:  In NAD.  
HEENT:  PERRL, EOMI.  No scleral icterus.  No conjunctival 
injection.   Mucous membranes moist.  No oral ulcers.
Neck:  Supple, no LAD, no JVP elevation.
Lungs: CTA bilaterally, no wheezes, rales, rhonchi.  Normal 
respiratory effort.
CV:  RRR, no murmurs, rubs, gallops.
Abdomen:  soft, NT, ND, NABS, no HSM.
Extremities:  warm and well perfused, no cyanosis, clubbing, 
edema.
Neurological:  alert and oriented X 3, CN II-XII intact. Moves 
all extremities.  
Skin:  No rashes or ulcers.  Warm and pink.
Psychiatric:  Appropriate.
GU:  deferred.
 
Pertinent Results:
___ 12:25AM   GLUCOSE-187* UREA N-19 CREAT-1.5* SODIUM-146* 
POTASSIUM-3.9 CHLORIDE-105 TOTAL CO2-24 ANION GAP-21*
___ 12:25AM   CK(CPK)-810*
___ 12:25AM   cTropnT-LESS THAN 
___ 12:25AM   CK-MB-8
.
___ 12:05AM   WBC-9.9 RBC-4.92 HGB-15.4 HCT-43.9 MCV-89 
MCH-31.2 MCHC-35.0 RDW-13.9
___ 12:05AM   NEUTS-74* BANDS-22* LYMPHS-1* MONOS-3 EOS-0 
BASOS-0 ___ MYELOS-0
___ 12:05AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 12:05AM   PLT SMR-NORMAL PLT COUNT-172
.
Repeat CBC  ___ 12:25AM:
WBC-7.8 RBC-4.81 HGB-14.8 HCT-42.5 MCV-88 MCH-30.7 MCHC-34.7 
RDW-14.0
NEUTS-83* BANDS-7* LYMPHS-3* MONOS-3 EOS-3 BASOS-0 ATYPS-0 
METAS-1* MYELOS-0
HYPOCHROM-NORMAL ANISOCYT-NORMAL POIKILOCY-NORMAL 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-NORMAL
.
UA
___ 03:39AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:39AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-75 
GLUCOSE-NEG KETONE-50 BILIRUBIN-SM UROBILNGN-NEG PH-5.0 LEUK-NEG
___ 03:39AM URINE  RBC-0 ___ BACTERIA-FEW YEAST-NONE 
___ 03:39AM URINE  ___
.
EKG:
SR 94, V2-V3, ST elevations vs. J point elevations, without 
reciprocal changes, LAD.  No prior for comparison.

 
Brief Hospital Course:
___ yo man without significant past medical history, here with 
syncope after walking around in the heat all day, with nausea, 
vomiting, diarrhea and elevated body temperature, concerning for 
heat related illness, either heat exhaustion or heat stroke.  He 
has an abnormal EKG with no prior for comparison, but no chest 
pain and baseline good exercise tolerance.

# Near Syncopem Heat exhaustion due to dehydration.  
- With elevated body temperature, nausea, vomiting, weakness, 
hand cramps and mildly elevated CK.
- IV fluid resuscitation
- Felt markedly better with IV Fluids

# Abnormal EKG.
- ruled out MI.

# Acute renal failure with hypernatremia.
- Resolved with IV Fluids

#. Hyperglycemia
- Likely a diabetic, given family history and hyperglycmeia. 
This will need to be followed up in the outpatient setting. He 
does not have insurance, so was referred to a ___ 
___.

 
Medications on Admission:
None.
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope
Dehydration
Acute Renal Failure
Possible Diabetes
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
It is very important that you attempt to keep hydrated. If you 
are out on hot days, it is important to drink plenty of water. 
If you are sweating a lot, make sure to consume some salty foods 
if you are drinking large amounts of water.

It is possible you have diabetes, as your sugar has been high 
here in the hospital. You also have a family history which 
placed you at risk. It is very important that you get a primary 
care doctor, at one of the clinics below.
 
Followup Instructions:
___